US03962458
Preparation of 2,2-Dimethylspiro[2,4]heptane-1-carboxylic acid, α-ethynyl-m-phenoxybenzyl ester.
The procedure of Example 1 is followed using 2,2-dimethylspiro[2,4]heptane-1-carboxylic acid in place of 2,2-dimethyl-4,5-benzospiro[2,4]hepta-4,6-diene-1-carboxylic acid and α-ethynyl-m-phenoxybenzyl alcohol in place of m-phenoxybenzyl alcohol to give the product as an oil.

reactant | 2,2-dimethylspiro[2,4]heptane-1-carboxylic acid | CC1(C(C12CCCC2)C(=O)O)C | C10H16O2
reactant | α-ethynyl-m-phenoxybenzyl alcohol | C(#C)C(C1=CC(=CC=C1)OC1=CC=CC=C1)O | C15H12O2
product | 2,2-Dimethylspiro[2,4]heptane-1-carboxylic acid, α-ethynyl-m-phenoxybenzyl ester | CC1(C(C12CCCC2)C(=O)OC(C2=CC(=CC=C2)OC2=CC=CC=C2)C#C)C | C25H26O3
